US05922716
A mixture of 0.7 g of ethyl (5-methyl-2,3-dioxo-1,4-dihydro-5H-indeno [1,2-b]pyrazin-5-yl)acetate, 40 ml of dioxane and 9 ml of 8N hydrochloric acid is heated to 40° C. for 90 hours. The reaction mixture is then evaporated in a rotary evaporator, and the evaporation residue is triturated in 20 ml of water, filtered off and rinsed with distilled water (2×10 ml) and then with isopropyl ether (10 ml). After drying at 60° C. under vacuum (1 mm Hg; 0.13 kPa), 0.4 g of (5-methyl-2,3-dioxo-1,4-dihydro-5H-indeno [1,2-b]pyrazin-5-yl)acetic acid is obtained in the form of a pale yellow solid melting above 260° C. (Analysis % calculated C: 61.76; H: 4.44; N: 10.29; 0: 23.51; % found C: 61.8; H: 4.6; N: 10.4).

reactant | ethyl (5-methyl-2,3-dioxo-1,4-dihydro-5H-indeno [1,2-b]pyrazin-5-yl)acetate | 0.7 g | CC1(C=CC=C2C=C3C(NC(C(N3)=O)=O)=C12)CC(=O)OCC | C16H16N2O4
reactant | hydrochloric acid | 8N, 9 ml | Cl | ClH
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | (5-methyl-2,3-dioxo-1,4-dihydro-5H-indeno [1,2-b]pyrazin-5-yl)acetic acid | 0.4 g | CC1(C=CC=C2C=C3C(NC(C(N3)=O)=O)=C12)CC(=O)O | C14H12N2O4
